US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(4-fluoro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=362.9 (M+H+), was prepared from 4-fluoro-benzamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 4-fluoro-benzamidine | FC1=CC=C(C(=N)N)C=C1 | C7H7FN2
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(4-fluoro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)F)N | C17H13Cl2FN4
